US05077409
N-[3-(Hydroxymethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide
To a solution of 15.5 g of m-aminobenzyl alcohol and 36.21 g of pyridine in 250 ml of tetrahydrofuran, cooled to 0° C. is added over 40 minutes a solution of 42 g of p-tetradecyloxyphenylacetyl chloride in 250 ml of tetrahydrofuran. The mixture is stirred overnight at room temperature and the solvent is evaporated. The residue is partitioned between water and chloroform with some heating to afford a complete solution. The hot chloroform solution is washed with warm water and warm dilute hydrochloric acid. The organic layer is dried and evaporated to a residue which is crystallized from carbon tetrachloride to give 40 g of the desired product as a white solid.

reactant | m-aminobenzyl alcohol | 15.5 g | NC=1C=C(CO)C=CC1 | C7H9NO
reactant | pyridine | 36.21 g | N1=CC=CC=C1 | C5H5N
reactant | p-tetradecyloxyphenylacetyl chloride | 42 g | C(CCCCCCCCCCCCC)OC1=CC=C(C=C1)CC(=O)Cl | C22H35ClO2
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | N-[3-(Hydroxymethyl)phenyl]-4-(tetradecyloxy)benzeneacetamide | 40 g | OCC=1C=C(C=CC1)NC(CC1=CC=C(C=C1)OCCCCCCCCCCCCCC)=O | C29H43NO3
